US08357679B2
D: 1,1,1,3,3,3-Hexafluoro-2-(2-(hydroxymethyl)thiazol-5-yl)propan-2-ol
To a stirring solution of 5-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)thiazole-2-carbaldehyde (1.791 mmol, 500 mg) in methanol (4 mL) was added sodium borohydride (5.37 mmol, 203 mg). The mixture was stirred at room temperature for 90 minutes before concentrating under reduced pressure. The resulting residue was dissolved in dichloromethane (2 mL)/methanol (0.5 mL) and filtered through a plug of silica, washing with 20% methanol/80% dichloromethane. The filtrate was concentrated under reduced pressure to afford the title compound (150 mg). MS (ESI) m/z 280.0 [M−H]

reactant | 5-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)thiazole-2-carbaldehyde | 1.791 mmol, 500 mg | FC(C(C(F)(F)F)(O)C1=CN=C(S1)C=O)(F)F | C7H3F6NO2S
reactant | sodium borohydride | 5.37 mmol, 203 mg | [BH4-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 1,1,1,3,3,3-Hexafluoro-2-(2-(hydroxymethyl)thiazol-5-yl)propan-2-ol | 150 mg | FC(C(C(F)(F)F)(O)C1=CN=C(S1)CO)(F)F | C7H5F6NO2S
